US05885936
Step A: Preparation of 2,3-dihydro-7,10-dimethyl-5H-1,4-dithiino[2,3-c][1]benzothiopyran-9-carboxylic acid
A mixture of 0.62 g of 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2'-[1,3]dithiolane]-6-carboxylic acid in 200 mL of chloroform was cooled to 0° C. To this mixture was added a solution of 0.38 g of bromine in 20 mL of chloroform dropwise. The resulting mixture was stirred overnight at room temperature. To this reaction mixture was added 10% aqueous sodium thiosulfate. The organic layer was separated and dried over MgSO4, filtered, and concentrated under reduced pressure to dryness. The resulting residue was crystallized from 1-chlorobutane to gave 0.29 g of the title compound of Step A as a purple solid melting at 250° C. (dec.). 1H NMR (CDCl3): δ 2.35 (s, 3H), 2.70 (s, 3H), 3.05 (m, 2H), 3.39 (br s, 2H), 3.41 (m, 2H), 7.66 (s, 1H).

reactant | 2,3-dihydro-5,8-dimethylspiro[4H-1-benzothiopyran-4,2'-[1,3]dithiolane]-6-carboxylic acid | 0.62 g | CC1=C(C=C(C2=C1C1(SCCS1)CCS2)C)C(=O)O | C14H16O2S3
reactant | bromine | 0.38 g | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,3-dihydro-7,10-dimethyl-5H-1,4-dithiino[2,3-c][1]benzothiopyran-9-carboxylic acid | 0.29 g | CC1=CC(=C(C=2C3=C(CSC21)SCCS3)C)C(=O)O | C14H14O2S3
